US08912186B2
The suspension of commercial 3-(4-chlorophenyl)glutaric acid (15 g) in acetyl chloride (20 ml) was heated to reflux for 2 h. Then precipitation of the product is completed by addition of petrol ether (50 ml) and cooling to rt. The precipitate is isolated by suction filtration, washed with petrol ether, and dried in vacuo to give 3-(4-chlorophenyl)glutaric anhydride (13.3 g) as colourless crystals.

reactant | 3-(4-chlorophenyl)glutaric acid | 15 g | ClC1=CC=C(C=C1)C(CC(=O)O)CC(=O)O | C11H11ClO4
solvent | acetyl chloride | 20 ml | C(C)(=O)Cl | C2H3ClO
product | 3-(4-chlorophenyl)glutaric anhydride | 13.3 g | ClC1=CC=C(C=C1)C1CC(=O)OC(C1)=O | C11H9ClO3
